data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
933,1012,[CH3:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][N-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][O:2][C:3]([Cl:4])=[C:5]([O:6][CH3:7])[O:8][CH3:9]>>[CH3:1][O:2][C:3]1([Cl:4])[C:5]([O:6][CH3:7])([O:8][CH3:9])[N:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[NH:15][C:13]1([C:11]([CH3:10])=[O:12])[CH3:14],water,298.15,33.15722002050003,-7.347205645346402
849,919,[CH3:9][O:10][C:11](=[O:12])[C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N+:20]([CH3:21])=[CH:22][C:23]#[N:24].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[CH:22]([C:23]#[N:24])[N:20]([CH3:21])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,19.59993132326128,-44.241915008091965
581,637,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][NH:9][C:10](=[O:11])[CH:12]=[O+:13][N-:14][C:15](=[O:16])[NH:17][CH3:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[N:14]([C:15](=[O:16])[NH:17][CH3:18])[O:13][CH:12]1[C:10]([NH:9][CH3:8])=[O:11],water,298.15,13.229554912774177,-65.11973977380468
2419,2687,[CH3:1][C:2]1([C:3]#[N:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[N:24]#[C:25][C:26]([C:27]#[N:28])=[O+:29][N-:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][C:2]1([C:3]#[N:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[N:30]([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[O:29][C:26]2([C:25]#[N:24])[C:27]#[N:28],water,298.15,9.86036071995712,-49.61981091291258
2759,3065,[CH3:18][O:19][C:20](=[O:21])[C-:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N+:29]([CH3:30])=[C:31]([C:32]([CH3:33])=[O:34])[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:31]([C:32]([CH3:33])=[O:34])([c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1)[N:29]([CH3:30])[C:22]2([C:20]([O:19][CH3:18])=[O:21])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,34.195428388091415,-5.908183398892724
2995,3347,[CH3:10][N-:11][N+:12]#[N:13].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:11]([CH3:10])[N:12]=[N:13]1,water,298.15,35.87999906988354,-0.4934162650576972
5029,5717,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C-:10]([C:11]([CH3:12])=[O:13])[N+:14]([CH3:15])=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:8]([CH3:7])=[O:9])([C:11]([CH3:12])=[O:13])[N:14]([CH3:15])[C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,60.37282234394265,14.225116644284403
3802,4352,[CH2:10]=[N+:11]([CH3:12])[C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:11]([CH3:12])[CH2:10]1,water,298.15,11.649618958625917,-31.666100108056607
4223,4831,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:19]([C:20]#[N:21])([C:22]#[N:23])[N:17]([CH3:18])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[C:14]([CH3:15])=[O:16],water,298.15,20.397791053428733,-15.418515253293664
2482,2757,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21](=[O:22])[O:23][CH3:24])[N+:25]([CH3:26])=[C:27]([CH3:28])[C:29]#[N:30].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([CH3:10])([CH3:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:27]([CH3:28])([C:29]#[N:30])[N:25]([CH3:26])[C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:21](=[O:22])[O:23][CH3:24],water,298.15,28.329678217814003,-31.23188652922186
2293,2542,[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[N:24]=[NH+:25][N-:26][C:27]#[N:28]>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([C:9]([F:10])([F:11])[F:12])([C:13]([F:14])([F:15])[F:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[N:26]([C:27]#[N:28])[NH:25][N:24]2[C:22]([CH3:21])=[O:23],water,298.15,36.17950748071156,-15.380913807944491
